US09034866B2
Synthesis of 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was prepared similarly according to the procedure in Example 2. 10-bromo-3((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid was reacted with ammonium chloride and purified by flash chromatography to afford 134 mg (68% yield) of the title compound.

reactant | 10-bromo-3((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(O)C=3C(=NN(C3)C)C)C1)F | C18H16BrFN4O4
reactant | ammonium chloride | [Cl-].[NH4+]
product | 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 134 mg, 68% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(O)C=3C(=NN(C3)C)C)C1)F | C18H17BrFN5O3
